US08686048B2
Intermediate 24: 2′,3,5-trichlorobiphenyl-4-amine
The title compound (0.4 g) was prepared from 4-bromo-2,6-dichloroaniline (0.5 g, 2.1 mmol) and 2-chlorophenylboronic acid (0.421 g, 2.7 mmol) as a white solid. 1H-NMR (δ ppm, DMSO-d6, 400 MHz): 7.55-7.50 (m, 1H), 7.40-7.32 (m, 3H), 7.29 (s, 2H), 5.72 (s, 2H).

reactant | 4-bromo-2,6-dichloroaniline | 2.1 mmol, 0.5 g | BrC1=CC(=C(N)C(=C1)Cl)Cl | C6H4BrCl2N
reactant | 2-chlorophenylboronic acid | 2.7 mmol, 0.421 g | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
product | 2′,3,5-trichlorobiphenyl-4-amine | 0.4 g | ClC1=C(C=CC=C1)C1=CC(=C(C(=C1)Cl)N)Cl | C12H8Cl3N
